US04933355
t-Butyl 2,4-dioxo-5-(2-tritylaminothiazol-4-ylmethylene)thiazolidine-3-acetate
Following a procedure similar to that described in Example 17, the desired compound was prepared from 2 g of 2-tritylaminothiazole-4-carbaldehyde, 1.2 g of t-butyl 2,4-dioxothiazolidine-3-acetate, 0.88 g of piperidine and 20 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | 2-tritylaminothiazole-4-carbaldehyde | 2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C23H18N2OS
reactant | t-butyl 2,4-dioxothiazolidine-3-acetate | 1.2 g | O=C1SCC(N1CC(=O)OC(C)(C)C)=O | C9H13NO4S
reactant | piperidine | 0.88 g | N1CCCCC1 | C5H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | t-Butyl 2,4-dioxo-5-(2-tritylaminothiazol-4-ylmethylene)thiazolidine-3-acetate | O=C1SC(C(N1CC(=O)OC(C)(C)C)=O)=CC=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H29N3O4S2
